US07592453B2
Ethyl 4-[(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-amino]benzoate
To a solution of {[tert-butyl(dimethyl)silyl]oxy}acetaldehyde (2.00 g, 11.5 mmol) in dichloromethane (50 ml) was added ethyl 4-aminobenzoate (1.90 g, 11.5 mmol), and the mixture was stirred at room temperature for 1 hr. Sodium triacetoxyborohydride (3.41 g, 16.1 mmol) was added, and the mixture was stirred overnight. Saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture under ice-cooling, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous MgSO4, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with hexane-ethyl acetate (4:1-1:1, v/v) to give the title compound (3.52 g, 95%) as a colorless oil.

reactant | {[tert-butyl(dimethyl)silyl]oxy}acetaldehyde | 11.5 mmol, 2.00 g | [Si](C)(C)(C(C)(C)C)OCC=O | C8H18O2Si
reactant | ethyl 4-aminobenzoate | 11.5 mmol, 1.90 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | Sodium triacetoxyborohydride | 16.1 mmol, 3.41 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Ethyl 4-[(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-amino]benzoate | 3.52 g, 95% | [Si](C)(C)(C(C)(C)C)OCCNC1=CC=C(C(=O)OCC)C=C1 | C17H29NO3Si
